US04577022
5,6,7,8-Tetrahydro-8-trimethylsilyl-3-methylquinoline
A mixture of 5,6,7,8-tetrahydro-3-methylquinoline (29.4 g, 0.2 M) and tetrahydrofuran (THF) (50 ml) was added to a mixture of a 1.55 molar solution of butyl lithium in hexane (129 ml, 0.2 M) and THF (50 ml), maintained below 10°. After 0.5 hour the mixture was blown over by inert gas onto a mixture of trimethylsilyl chloride (50 ml, 0.4 M) in the THF (100 ml), maintained below 10°. After 0.5 hour, the mixture was evaporated and the residue extracted with hexane. The hexane extracts were evaporated with the residue distilled to give the title compound (40 g, 91%) b.p. 118°-124°/5 mbar. (Found: C70.9; H,9.65; N,6.4% C13H21NSi requires: C,71.2; H,9.6; N6.4%).

reactant | 5,6,7,8-tetrahydro-3-methylquinoline | 0.2 M, 29.4 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | butyl lithium | C(CCC)[Li]
reactant | trimethylsilyl chloride | 0.4 M, 50 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | hexane | 0.2 M, 129 ml | CCCCCC | C6H14
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-Tetrahydro-8-trimethylsilyl-3-methylquinoline | 40 g, 91% | C[Si](C1CCCC=2C=C(C=NC12)C)(C)C | C13H21NSi
